US04415552
N-(2-aminoethyl) carbamylmethylated cellulose was prepared in the manner set forth in Example 1. The amino ethyl derivative was kept at a concentration of 6.5 mg/ml in aqueous solution. Three ml of this solution were diluted to 6 ml with distilled water. The pH was adjusted to 9 with 0.1 N NaOH. One hundred mg of Penicillin G (sodium salt, Sigma Chemicals, St. Louis, U.S.A.) were added at once, and the resulting solution left overnight at room temperature. The solution was then dialyzed in the cold against two daily changes of 2 liters of water for 3 days. The CMC-Pen conjugate thus formed was kept in solution in the cold.

reactant | NaOH | 0.1 N | [OH-].[Na+]
reactant | Penicillin G | One hundred mg | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)O)C | C16H18N2O4S
solvent | water | O | H2O
product | Pen | N[C@@H](C(C)(C)S)C(=O)O | C5H11NO2S
